US07138394B2
5% Ibuprofen cream was prepared as described in Example 2. The composition of the emulsion for 5% Diclofenac cream is presented in Table 4. The cream contains approximately 26% of the oil phase with a ratio MCT: Camphor: Menthol of approximately 4.25:1:1.

reactant | Diclofenac | C=1C=CC(=C(C1)CC(=O)O)NC=2C(=CC=CC2Cl)Cl | C14H11Cl2NO2
reactant | Camphor | C12(C(=O)CC(CC1)C2(C)C)C | C10H16O
reactant | Menthol | C1(CC(C(CC1)C(C)C)O)C | C10H20O
product | Ibuprofen | 5% | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
